US05053509
(RS)-3-Ethoxycarbonyl-1-ethyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 33, but starting with 3-ethoxycarbonyl-1-ethyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine (1.99 g) and (RS)-2-(4-methoxyphenyl)piperazine (2.3 g). (RS)-3-Ethoxycarbonyl-1-ethyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (2.2 g) is obtained in the form of a beige solid, m.p. 210°-212° c.

reactant | 3-ethoxycarbonyl-1-ethyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine | 1.99 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)CC)C=C(C(=C3)F)F)=O | C17H14F2N2O3
reactant | (RS)-2-(4-methoxyphenyl)piperazine | 2.3 g | COC1=CC=C(C=C1)C1NCCNC1 | C11H16N2O
product | (RS)-3-Ethoxycarbonyl-1-ethyl-7-fluoro-8-[3-(4-methoxyphenyl)-1-piperazinyl]-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 2.2 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)CC)C=C(C(=C3)F)N3CC(NCC3)C3=CC=C(C=C3)OC)=O | C28H29FN4O4
